US04115122
14.9 g of 2-methylbenzothiazole and 12.5 g of propargyl bromide were heated at 80 to 100° C on a hot water bath for 3 hours. The precipitated crystals were washed with acetone to obtain 18.5 g of 2-methyl-3-propargylbenzothiazolium bromide, m.p. 214°- 215° C.

reactant | 2-methylbenzothiazole | 14.9 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | propargyl bromide | 12.5 g | C(C#C)Br | C3H3Br
product | 2-methyl-3-propargylbenzothiazolium bromide | 18.5 g | [Br-].CC=1SC2=C([N+]1CC#C)C=CC=C2 | InChI=1S/C11H10NS.BrH/c1-3-8-12-9(2)13-11-7-5-4-6-10(11)12;/h1,4-7H,8H2,2H3;1H/q+1;/p-1
